US07592454B2
To a dry THF solution (2 mL) of ethyl-5-methyl-6-{[4-(methylsulfanyl)phenyl] sulfanyl}-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate (0.17 g, 0.41 mmol) was added dropwise over 15 min a THF solution of lithium aluminum hydride (1 mL, 1M in THF) at 0° C. The reaction was stirred at room temperature for 1 h. The reaction was quenched with water (0.04 mL) and stirred for 110 minutes. A 15% sodium hydroxide solution (0.04 mL) was added and stirred for 10 minutes, and water (0.12 mL) was added and stirred for 10 minutes. The resultant solids were filtered and washed with chloroform (10 mL). The filtrate was concentrated under reduced pressure. The resulted residue was purified by silica gel column chromatography, (3% methanol/chloroform) to afford 2,5-dimethyl-6-{[4-(methylsulfanyl)phenyl] sulfanyl}-2,3,4,5-tetrahydro-1H-pyrido [4,3-b]indole (78 mg, 54%) as a pale-yellow colored oil. 1H NMR (CDCl3, 300 MHz) δ 7.30 (d, 1H, J=7.3 Hz), 7.09-7.02 (m, 3H), 6.92-6.88 (m, 2H), 3.87 (s, 3H), 3.66 (s, 2H), 2.86-2.79 (m, 4H), 2.56 (s, 5H), 2.41 (s, 3H) ppm.

reactant | ethyl-5-methyl-6-{[4-(methylsulfanyl)phenyl] sulfanyl}-1,3,4,5-tetrahydro-2H-pyrido[4,3-b]indole-2-carboxylate | 0.41 mmol, 0.17 g | C(C)OC(=O)N1CC2=C(N(C=3C(=CC=CC23)SC2=CC=C(C=C2)SC)C)CC1 | C22H24N2O2S2
reactant | lithium aluminum hydride | 1M, 1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2,5-dimethyl-6-{[4-(methylsulfanyl)phenyl] sulfanyl}-2,3,4,5-tetrahydro-1H-pyrido [4,3-b]indole | 78 mg, 54% | CN1CC2=C(N(C=3C(=CC=CC23)SC2=CC=C(C=C2)SC)C)CC1 | C20H22N2S2
